US08981111B2
A solution of (1-methyl-1H-imidazol-5-yl)(phenyl)methanone (14.0 g, 75 mmol) and hydroxylamine hydrochloride (13.1 g, 188 mmol) in pyridine (60 mL) was stirred for 72 h at room temperature, and for 3 h at 50° C. After removal of the solvent in vacuo, addition of water (600 mL) and extraction with ethyl acetate (4×150 mL), the combined organic layers were washed with water (150 mL), dried over MgSO4 and concentrated in vacuo. The resulting yellow solid was washed with pentane to afford N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-phenylmethanimine [7.12 g, yield 42%; HPLC/MS: m/z=202 (M+H); log P(HCOOH)=0.41]. Further extraction of the neutralised combined aqueous layers afforded a second crop of N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-phenylmethanimine [5.75 g, yield 34%; HPLC/MS: m/z=202 (M+H); log P(HCOOH)=0.41], combined yield 76%.

reactant | (1-methyl-1H-imidazol-5-yl)(phenyl)methanone | 75 mmol, 14.0 g | CN1C=NC=C1C(=O)C1=CC=CC=C1 | C11H10N2O
reactant | hydroxylamine hydrochloride | 188 mmol, 13.1 g | Cl.NO
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-phenylmethanimine | 7.12 g, yield 42% | ON=C(C1=CC=CC=C1)C1=CN=CN1C | C11H11N3O
